US09232799B2
At ambient temperature, 233 mg (1.1 mmol) of 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride and 234 mg (1 mmol) of 1-(2,4-dichlorophenyl)-1-methoxypropan-2-amine are dissolved in 10 ml of dichloromethane. 121 mg (1.2 mmol) of triethylamine are added and the reaction mixture is stirred for 4 hrs at ambient temperature. The mixture is diluted by 50 ml of ethyl acetate and successively washed by a 1 N solution of HCl (twice), a saturated solution of potassium carbonate (twice) and brine and dried over magnesium sulfate. The solvents are removed and the crude amide is purified by column chromatography on silica gel (gradient heptane/ethyl acetate) to yields 400 mg (97% yield) of N-[1-(2,4-dichlorophenyl)-1-methoxypropan-2-yl]-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide as a pale yellow solid (M+H=410).

reactant | 3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carbonyl chloride | 1.1 mmol, 233 mg | FC(C1=NN(C(=C1C(=O)Cl)F)C)F | C6H4ClF3N2O
reactant | 1-(2,4-dichlorophenyl)-1-methoxypropan-2-amine | 1 mmol, 234 mg | ClC1=C(C=CC(=C1)Cl)C(C(C)N)OC | C10H13Cl2NO
reactant | triethylamine | 1.2 mmol, 121 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[1-(2,4-dichlorophenyl)-1-methoxypropan-2-yl]-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide | 400 mg, 97% yield | ClC1=C(C=CC(=C1)Cl)C(C(C)NC(=O)C=1C(=NN(C1F)C)C(F)F)OC | C16H16Cl2F3N3O2
